US06362177B1
A solution of LiOH (1.66 g) in H2O (25 mL) was added to the solution of ethyl 1-(4-chlorobenzyl)nipecotate in THF (60 mL) and CH3OH (20 mL). The reaction mixture was stirred at room temperature for 15 h. The solvent was removed under reduced pressure to afford an amorphous solid which was purified by column chromatography (SiO2, 50% CH3OH—CH2Cl2) to yield 1-(4-chlorobenzyl)nipecotic acid (9.75 g, 98.2%) as a pale yellow amorphous solid. The purity was determined by RPLC/MS (>95%); ESI/MS m/e 254.0 (M++H, C13H17ClNO2).

reactant | LiOH | 1.66 g | [Li+].[OH-]
reactant | ethyl 1-(4-chlorobenzyl)nipecotate | ClC1=CC=C(CN2CC(C(=O)OCC)CCC2)C=C1 | C15H20ClNO2
solvent | H2O | 25 mL | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | CH3OH | 20 mL | CO | CH4O
product | 1-(4-chlorobenzyl)nipecotic acid | 9.75 g, 98.2% | ClC1=CC=C(CN2CC(C(=O)O)CCC2)C=C1 | C13H16ClNO2
